US08461329B2
To a solution of 4-(bromomethyl)benzoic acid tert-butyl ester (22.1 g) in toluene (440 ml), tri-n-butylphosphine (30.5 ml) was added, and the mixed solution was stirred at 60° C. for 70 min. The reaction solution was removed by evaporation under reduced pressure, and to the resulting crude product, n-hexane was added and stirred. The resulting solid was filtered out to give [4-(tert-butoxycarbonyl)benzyl](tributyl)phosphonium bromide (36.0 g) as a colorless solid.

reactant | 4-(bromomethyl)benzoic acid tert-butyl ester | 22.1 g | C(C)(C)(C)OC(C1=CC=C(C=C1)CBr)=O | C12H15BrO2
reactant | tri-n-butylphosphine | 30.5 ml | C(CCC)P(CCCC)CCCC | C12H27P
solvent | toluene | 440 ml | C1(=CC=CC=C1)C | C7H8
product | [4-(tert-butoxycarbonyl)benzyl](tributyl)phosphonium bromide | 36.0 g | [Br-].C(C)(C)(C)OC(=O)C1=CC=C(C[P+](CCCC)(CCCC)CCCC)C=C1 | InChI=1S/C24H42O2P.BrH/c1-7-10-17-27(18-11-8-2,19-12-9-3)20-21-13-15-22(16-14-21)23(25)26-24(4,5)6;/h13-16H,7-12,17-20H2,1-6H3;1H/q+1;/p-1
